US07897767B2
Isobutyric anhydride (2.28 mL, 13.8 mmol) was added to a flask containing 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butan-1-amine hydrochloride (prepared as described in Part A of Example 88, 4.30 g, 12.5 mmol), triethylamine (3.66 mL, 26.3 mmol), and dichloromethane (100 mL) at 0° C. The reaction is mixture was stirred at room temperature for 3 hours. The solution was concentrated under reduced pressure and water (50 mL) followed by ethyl acetate (50 mL) were added to the solid residue. The mixture was sonicated for 1 minute, then the solid was isolated by filtration, washed with water and ethyl acetate. Toluene was added to the solid and the mixture was concentrated under reduced pressure. The solid was dried under vacuum to afford 4.12 g of N-{-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}-2-methylpropanamide.

reactant | Isobutyric anhydride | 13.8 mmol, 2.28 mL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butan-1-amine hydrochloride | Cl.ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCN
reactant | triethylamine | 26.3 mmol, 3.66 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-{-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}-2-methylpropanamide | 4.12 g | ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNC(C(C)C)=O | C17H24ClN7O
